US07592362B2
1-(2-Chloro-3-methylphenyl)ethanone
To a solution of 2-chloro-3-methylbenzoic acid (1.71 g, 10.0 mmol) in anhydrous tetrahydrofuran (10 ml), at 0° C. and under nitrogen, was added methyllithium (1.6M in diethyl ether, 13.1 ml, 21.0 mmol), via syringe. The reaction mixture was stirred at 0° C. for 30 min and then allowed to warm to room temperature over 1 h. To the reaction mixture was added cold hydrochloric acid (1M, 100 ml) and dichloromethane (110 ml). The mixture was adjusted to pH 7 by addition of saturated aqueous sodium hydrogen carbonate solution and the two layers were separated. The aqueous layer was extracted with further dichloromethane and the combined extracts were dried (MgSO4) and concentrated in vacuo to give the title compound (1.19 g).

reactant | 2-chloro-3-methylbenzoic acid | 10.0 mmol, 1.71 g | ClC1=C(C(=O)O)C=CC=C1C | C8H7ClO2
reactant | methyllithium | 21.0 mmol, 1.6M, 13.1 ml | C[Li]
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 1-(2-Chloro-3-methylphenyl)ethanone | 1.19 g | ClC1=C(C=CC=C1C)C(C)=O | C9H9ClO
